US04753934
4-Amino-β-(4'-chlorophenyl)-3,5-dichloro-cinnamic acid morpholide
A solution of 5.3 g (0.02 mol) of diethylphosphonoacetic acid morpholide in 100 ml of dry tetrahydrofuran was slowly added dropwise, while stirring, to a suspension of 1 g of sodium hydride (0.02 mol, 50% in oil) in 50 ml of dry tetrahydrofuran. Slight heating and strong foaming occurred. After all had been added, the mixture was stirred for 10 minutes more. A solution of 3 g (0.01 mol) of 4-amino-3,4',5-trichlorobenzophenone in 20 ml of dry tetrahydrofuran was added dropwise to the resulting clear solution, and the mixture was heated for 16 hours at reflux temperature. After cooling, the solution was poured into water, and the aqueous mixture was extracted exhaustively with methylene chloride. The methylene chloride phase was dried with sodium sulfate and evaporated by evaporation in vacuo. The residue was crystallized from isopropanol/petroleum ether. The colorless crystals thus obtained, melting point 150°-155° C., contained the cis/trans isomers in a ratio of 1:3.

reactant | diethylphosphonoacetic acid morpholide | 0.02 mol, 5.3 g | C(C)OP(=O)(OCC)CC(=O)N1CCOCC1 | C10H20NO5P
reactant | sodium hydride | 0.02 mol, 1 g | [H-].[Na+]
reactant | 4-amino-3,4',5-trichlorobenzophenone | 0.01 mol, 3 g | NC1=C(C=C(C(=O)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C13H8Cl3NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Amino-β-(4'-chlorophenyl)-3,5-dichloro-cinnamic acid morpholide | NC1=C(C=C(C(=CC(=O)N2CCOCC2)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C19H17Cl3N2O2
